US05905090
N-(4-trifluoromethoxyphenyl)-2-hydroxybenzamide
This compound was obtained as a white solid starting from acetylsalicyclic acid and 4trifluoromethoxyaniline using the same procedure described in example 5.

reactant | acetylsalicyclic acid | C(C)(=O)OC=1C(C(=O)O)=CC=CC1 | C9H8O4
reactant | 4trifluoromethoxyaniline | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
product | N-(4-trifluoromethoxyphenyl)-2-hydroxybenzamide | FC(OC1=CC=C(C=C1)NC(C1=C(C=CC=C1)O)=O)(F)F | C14H10F3NO3
